US08486297B2
A mixture of 40.0 g (0.31 mol) of thiophen-2-ylboronic acid, 80.0 g (0.32 mol) of 4-bromo-2-fluoro-1-pentylbenzene, 18.0 g (15.6 mmol) of tetrakis(triphenylphosphine)palladium(0) and 400 ml of 2 M sodium hydrogencarbonate soln. in 1000 ml of ethanol/toluene=3:2 is heated at 80° C. for 19 h. Toluene and water are added to the mixture, and the organic phase is separated off. The aqueous phase is extracted with toluene, and the combined organic phases are washed with sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to completion. The residue is purified by column chromatography (SiO2, n-heptane). 2-(3-Fluoro-4-pentylphenyl)thiophene is obtained as a colourless liquid.

reactant | thiophen-2-ylboronic acid | 0.31 mol, 40.0 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | 4-bromo-2-fluoro-1-pentylbenzene | 0.32 mol, 80.0 g | BrC1=CC(=C(C=C1)CCCCC)F | C11H14BrF
reactant | sodium hydrogencarbonate | 2 M, 400 ml | C(O)([O-])=O.[Na+]
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol toluene | 1000 ml | C(C)O.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine)palladium(0) | 15.6 mmol, 18.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 2-(3-Fluoro-4-pentylphenyl)thiophene | FC=1C=C(C=CC1CCCCC)C=1SC=CC1 | C15H17FS
